US06559145B2
N-(4-Chlorobenzyl)4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazine-3-carboxamide 2,2-Dioxide [BW.6]
To a solution of 1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazin4(3H)-one 2,2-dioxide (Preparation 52, 1.00 g) and triethylamine (0.60 mL) in DMSO (25 mL) is added a solution of 4-chlorobenzylisocyanate (0.72 g) inDMSO (5 mL) at ambient temperature. After 4 h, 10% HCl (100 mL) is added to the reaction vessel and the aqueous layer is extracted with EtOAc (3×100 mL). The organic layers are combined, dried over MgSO4, filtered, and concentrated in vacuo to afford 0.42g (28%) of the title compound as a lime green solid. Physical characteristics: m.p. 148-149° C.; 1H NMR (300 MHz, CDCl3) δ 15.81, 8.22, 7.93, 7.71, 7.33, 7.16, 4.91, 4.60, 4.52, 3.91, 3.60, 3.48, 1.86, 1.62; IR (diffuse reflectance) 3373, 2940, 1616, 1574, 1543, 1493, 1390, 1327, 1297, 1279, 1253, 1116, 1097, 1077, 1037 cm−1; MS (FAB) m/z 517 (MH+); HRMS (EI) m/z 516.1140 (C25H25ClN2O6S). Anal. Found: C, 57.55; H, 4.95; N, 5.63.

reactant | 1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazin4(3H)-one 2,2-dioxide | 1.00 g | CN1S(CC(C2=C1C=CC(=C2)C#CCOC2OCCCC2)=O)(=O)=O | C17H19NO5S
reactant | triethylamine | 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzylisocyanate | 0.72 g | ClC1=CC=C(CN=C=O)C=C1 | C8H6ClNO
reactant | HCl | 100 mL | Cl | ClH
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | N-(4-Chlorobenzyl)4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazine-3-carboxamide 2,2-Dioxide | 0.42g, 28% | ClC1=CC=C(CNC(=O)C=2S(N(C3=C(C2O)C=C(C=C3)C#CCOC3OCCCC3)C)(=O)=O)C=C1 | C25H25ClN2O6S
